US06187774B1
By the same reaction and treatment as in Example 48 using cycloheptanone oxime and ethyl 4-(4-(4-chloro-3-fluorophenyl)-1,2,3,6-tetrahydropyridin-1-yl)-n-butyrate, 3-(3-(4-(4-chloro-3-fluorophenyl)-1,2,3,6-tetrahydropyridin-1-yl)propyl)-5,6,7,8-tetrahydro-4H-cyclohepta[c]isoxazole is obtained.

reactant | cycloheptanone oxime | C1(CCCCCC1)=NO | C7H13NO
reactant | ethyl 4-(4-(4-chloro-3-fluorophenyl)-1,2,3,6-tetrahydropyridin-1-yl)-n-butyrate | ClC1=C(C=C(C=C1)C=1CCN(CC1)CCCC(=O)OCC)F | C17H21ClFNO2
product | 3-(3-(4-(4-chloro-3-fluorophenyl)-1,2,3,6-tetrahydropyridin-1-yl)propyl)-5,6,7,8-tetrahydro-4H-cyclohepta[c]isoxazole | ClC1=C(C=C(C=C1)C=1CCN(CC1)CCCC1=C2C(=NO1)CCCCC2)F | C22H26ClFN2O
